US08580783B2
To a suspension of 2-(2-benzo[1,3]dioxol-5-yl-acetylamino)-6-fluoro-4-(4-methyl-piperazin-1-yl)-benzoic acid methyl ester (0.15 g, 0.35 mmol) in a mixture of tetrahydrofuran (10 mL), methanol (1 mL) and water (2 mL), was added lithium hydroxide (0.15 g, 3.49 mmol). The reaction was stirred at room temperature overnight then the solvent was evaporated. The residue was diluted with water and 2 N HCl solution was added until pH 7. The solid precipitated was filtered and washed with water to obtain the 2-(2-benzo[1,3]dioxol-5-yl-acetylamino)-6-fluoro-4-(4-methyl-piperazin-1-yl)-benzoic acid crude. 2-(2-Benzo[1,3]dioxol-5-yl-acetylamino)-6-fluoro-4-(4-methyl-piperazin-1-yl)-benzoic acid was suspended in acetic anhydride (3 mL) and the reaction mixture was heated under microwave condition at 130° C. for 10 minutes. The solvent was evaporated to obtain the 2-benzo[1,3]dioxol-5-ylmethyl-5-fluoro-7-(4-methyl-piperazin-1-yl)-benzo[d][1,3]oxazin-4-one crude. To a solution of 2-benzo[1,3]dioxol-5-ylmethyl-5-fluoro-7-(4-methyl-piperazin-1-yl)-benzo[d][1,3]oxazin-4-one in dry pyridine (3 mL) was added aminoguanidine hydrogencarbonate (0.05 g, 0.39 mmol) and the mixture was heated under microwave condition at 180° C. for 15 minutes. The reaction was cooled at room temperature and diluted with water to induce the precipitation of a brown solid which was washed with a mixture MeOH/H2O 8/2, to afford the title compound (0.07 g, 46% yield).

reactant | 2-(2-benzo[1,3]dioxol-5-yl-acetylamino)-6-fluoro-4-(4-methyl-piperazin-1-yl)-benzoic acid methyl ester | 0.35 mmol, 0.15 g | COC(C1=C(C=C(C=C1F)N1CCN(CC1)C)NC(CC1=CC2=C(OCO2)C=C1)=O)=O | C22H24FN3O5
reactant | methanol | 1 mL | CO | CH4O
reactant | water | 2 mL | O | H2O
reactant | lithium hydroxide | 3.49 mmol, 0.15 g | [OH-].[Li+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-(2-benzo[1,3]dioxol-5-yl-acetylamino)-6-fluoro-4-(4-methyl-piperazin-1-yl)-benzoic acid | O1COC2=C1C=CC(=C2)CC(=O)NC2=C(C(=O)O)C(=CC(=C2)N2CCN(CC2)C)F | C21H22FN3O5
